US07091232B2
Use of 5-bromo-indan-1-one (Intermediate NINETEEN-1) in a reaction with NaH and dimethylcarbonate (refer to procedures in Method EIGHTEEN) produced 5-bromo-1-oxo-indan-2-carboxylic acid methyl ester (Intermediate NINETEEN-2). A solution of 5-bromo-1-oxo-indan-2-carboxylic acid methyl ester (4.75 g, 17.7 mmol) in TFA (80 mL) at 0° C. was treated with triethylsilane (TES) (17.0 mL, 6.0 eq) and stirred for 18 h. After evaporation of the solvent, the residue was diluted with Et2O and washed with H2O (5×100 mL), sat. NaHCO3 (3×50 mL), brine (1×75 mL) and dried over MgSO4 to give crude 5-bromo-indan-2-carboxylic acid methyl ester (Intermediate NINETEEN-3). A solution of 5-bromo-indan-2-carboxylic acid methyl ester (Intermediate NINETEEN-3) in AcOH containing 20% HCl was stirred overnight. After evaporation of the solvent, the residue was dissolved in 1N NaOH. The resulting mixture was washed with Et2O (3×75 mL) after which it was acidified with HCl (aq). The solution was extracted with CH2Cl2 (3×150 mL) and the combined organic extracts was washed with H2O (3×100 mL), brine (1×75 mL), dried over MgSO4 and concentrated to give crude 5-bromo-indan-2-carboxylic acid. Use of 5-bromo-indan-2-carboxylic acid in Method EIGHTEEN produced 4-(5-bromo-indan-2-yl)-1,3-dihydro-imidazole-2-thione (Compound 148).

reactant | 5-bromo-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=C(C=C2C1)Br | C11H11BrO2
solvent | AcOH | CC(=O)O | C2H4O2
product | 5-bromo-indan-2-carboxylic acid | BrC=1C=C2CC(CC2=CC1)C(=O)O | C10H9BrO2
